US06277862B1
(S)-N-(α-ethylbenzyl)-3-(ethoxycarbonyloxy)-2-phenylquinoline-4-carboxamide
0.5 g (1.3 mmol) of (S)-N-(α-ethylbenzyl)-3-hydroxy-2-phenylquinoline-4-carboxamide (compound of Description 1) were dissolved in 10 ml of pyridine; 0.5 ml (5.2 mmol) of ethyl chloroformate were added dropwise and the solution was refluxed under magnetical stirring for 8 hours. The reaction mixture was allowed to reach room temperature and left overnight. 1.0 ml (10.4 mmol) of ethyl chloroformate were added and the solution refluxed for 4 hours. The pyridine was evaporated off with toluene; the residue was dissolved in CH2Cl2, washed with H2O and the organic layer dried over na2SO4 and evaporated in-vacuo to dryness. The crude product was triturated with warm i-Pr2O to yield 0.25 g of the title compound as a yellow solid.

reactant | (S)-N-(α-ethylbenzyl)-3-hydroxy-2-phenylquinoline-4-carboxamide | 1.3 mmol, 0.5 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)O | C25H22N2O2
reactant | ethyl chloroformate | 5.2 mmol, 0.5 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 10.4 mmol, 1.0 ml | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | (S)-N-(α-ethylbenzyl)-3-(ethoxycarbonyloxy)-2-phenylquinoline-4-carboxamide | 0.25 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)OC(=O)OCC | C28H26N2O4
